US04585885
The crude product of the astaxanthin bis(trimethylsilyl)ether was taken up in 20 ml of methanol and boiled at reflux under argon for 4 hours. The mixture was left to cool to room temperature and was then cooled to -20° C., there being obtained a red-violet precipitation of 4.5 g of crude astaxanthin. Concentration of the mother liquor yielded about 3 g of solid red residue from which a further 0.4 g of crude astaxanthin was obtained by chromatography on silica gel with methylene chloride/diethyl ether (9:1) as the eluent and under an argon pressure of 0.2-0.4 bar. The resulting crude astaxanthin (4.9 g) was dissolved in 10 ml of methylene chloride and chromatographed on silica gel with methylene chloride/diethyl ether (9:1) as the eluent and an argon pressure of 0.2-0.4 bar. The uniform fractions were concentrated and recrystallized from methylene chloride/methanol, there being obtained 2.87 g of all-trans astaxanthin (purity about 90%); m.p. 216°-219° C.; yield 48% based on canthaxanthin.

reactant | astaxanthin bis(trimethylsilyl)ether | CC1=C(C(C[C@@H](C1=O)O)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(C(=O)[C@H](CC2(C)C)O)C)\C)\C)/C)/C.C[Si](C)(C)O[Si](C)(C)C
solvent | methanol | 20 ml | CO | CH4O
product | astaxanthin | 0.4 g | CC1=C(C(C[C@@H](C1=O)O)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(/C=C/C=C(/C=C/C2=C(C(=O)[C@H](CC2(C)C)O)C)\C)\C)/C)/C | C40H52O4
